US04464369
A solution of t-butyl nitrite (3.2 g) in tetrahydrofuran (20 ml) was added dropwise to a solution of benzhydryl 2-tert-butoxycarbonylmethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetate (syn isomer) (10 g) in tetrahydrofuran (100 ml) at 50° to 53° C. under stirring, and the mixture was stirred at the same temperature for 25 minutes. The reaction mixture was poured into a mixture of ethyl acetate and water. The separated organic layer was washed with an aqueous sodium chloride and dried over magnesium sulfate. The solution was evaporated and the residue was subjected to column chromatography on silica gel. The elution was carried out with a mixture of benzene and ethyl acetate (19:1) and the eluates containing the object compound were evaporated to give benzhydryl 2-tert-butoxycarbonylmethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetate (syn isomer) (7.1 g), mp. 139° to 141° C.

reactant | t-butyl nitrite | 3.2 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | benzhydryl 2-tert-butoxycarbonylmethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetate | 10 g | C(C)(C)(C)OC(=O)CON=C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=NSC(=N1)N | C23H24N4O5S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | benzhydryl 2-tert-butoxycarbonylmethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetate | 7.1 g | C(C)(C)(C)OC(=O)CON=C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=NSC=N1 | C23H23N3O5S
